US05714501
α-{(S)-2-Amino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidin-1-yl]propionylamino}acetic acid
To a solution of ethyl α-{(S)-2-benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionylamino}acetate(1 g, 1.7 mmol) in 20 ml ethanol was added 20 ml of 1N NaOH solution. The mixture was stirred at room temperature for 3 hours and acidified with conc. HCl. The mixture was stirred at room temperature for another hour. After neutrallization with NaHCO3, the white precipitate was collected by filtration and dried in vacuum. Recrystallization from methanol afforded the title compound as a white crystalline. Yield: 0.5 g (69%).

reactant | ethyl α-{(S)-2-benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionylamino}acetate | 1.7 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NCC(=O)OCC)CN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C35H37N3O5
reactant | NaOH | 1N, 20 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-{(S)-2-Amino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidin-1-yl]propionylamino}acetic acid | N[C@H](C(=O)NCC(=O)O)CN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C25H27N3O3
